US03939159
3.48 g (0.03 mole) of 1-methyl-4-piperidone and 3 ml. of glacial acetic acid are added to a solution of 5.65 g (0.03 mole) of 1-(2-amino-4-methoxy-phenyl) pyrrole in 100 ml. of absolute ethanol. The solution is refluxed for 15 hours and concentrated, and the residue is dissolved in water. The solution is filtered and basified. A solid precipitates and is filtered, dried and recrystallized from ethanol to give 4,5-dihydro-7-methoxy-1'-methylspiro[pyrrolo(1,2-a)quinoxaline-4,4'-piperidine], m.p. 124°-125° C.

reactant | 1-methyl-4-piperidone | 0.03 mole, 3.48 g | CN1CCC(CC1)=O | C6H11NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 1-(2-amino-4-methoxy-phenyl) pyrrole | 0.03 mole, 5.65 g | NC1=C(C=CC(=C1)OC)N1C=CC=C1 | C11H12N2O
solvent | ethanol | C(C)O | C2H6O
product | 4,5-dihydro-7-methoxy-1'-methylspiro[pyrrolo(1,2-a)quinoxaline-4,4'-piperidine] | COC=1C=C2NC3(CCN(CC3)C)C=3N(C2=CC1)C=CC3 | C17H21N3O
